US05192781
60 g of 4-nitroaniline are dissolved in 485 ml of 20% hydrochloric acid. The solution is cooled to 0°-5° C. and a solution of 26.7 g of sodium nitrite in 65 ml of water is then added slowly, with cooling. The pH is raised to 3 with a 25% solution of sodium hydroxide (300 ml), the temperature being kept at 5°-10° C. A solution of 11.6 g of CuCl2 in 75 ml of water is added, followed by a solution of 44.3 g of hex-1-en-3-one in 390 ml of acetone. The reaction mixture is allowed to return to room temperature, when the evolution of nitrogen and a temperature increase are observed. The reaction mixture is left overnight. It is decanted and the organic phase is concentrated. The residue is taken up with water and extracted with chloroform. After drying, the filtrate is concentrated to give a red oil, which is purified by chromatography on a silica column (eluent: cyclohexane) to give 57.9 g of 2-chloro-1-(4-nitrophenyl)hexan-3-one in the form of an orange oil.

reactant | 4-nitroaniline | 60 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | sodium nitrite | 26.7 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 300 ml | [OH-].[Na+]
reactant | hex-1-en-3-one | 44.3 g | C=CC(CCC)=O | C6H10O
reactant | hydrochloric acid | 485 ml | Cl | ClH
solvent | water | 65 ml | O | H2O
solvent | water | 75 ml | O | H2O
solvent | acetone | 390 ml | CC(=O)C | C3H6O
product | 2-chloro-1-(4-nitrophenyl)hexan-3-one | 57.9 g | ClC(CC1=CC=C(C=C1)[N+](=O)[O-])C(CCC)=O | C12H14ClNO3
